US06440995B1
(RS)-3-[2-(3-Chloro-4-methoxy-phenyl)-quinolin-4-ylamino]-propane-1,2-diol hydrochloride
The title compound, m.p. 205-210° C., and MS: m/e=358 (M+), was prepared from 4-chloro-2-(3-chloro-4-methoxy-phenyl)-quinoline and (RS)-3-amino-1,2-propandiol.

reactant | 4-chloro-2-(3-chloro-4-methoxy-phenyl)-quinoline | ClC1=CC(=NC2=CC=CC=C12)C1=CC(=C(C=C1)OC)Cl | C16H11Cl2NO
reactant | (RS)-3-amino-1,2-propandiol | NCC(CO)O | C3H9NO2
product | (RS)-3-[2-(3-Chloro-4-methoxy-phenyl)-quinolin-4-ylamino]-propane-1,2-diol hydrochloride | Cl.ClC=1C=C(C=CC1OC)C1=NC2=CC=CC=C2C(=C1)NCC(CO)O | InChI=1S/C19H19ClN2O3.ClH/c1-25-19-7-6-12(8-15(19)20)17-9-18(21-10-13(24)11-23)14-4-2-3-5-16(14)22-17;/h2-9,13,23-24H,10-11H2,1H3,(H,21,22);1H
